US08293917B2
To a solution of 1-(4-chloro-phenyl)-5-methoxymethyl-1H-pyrazole-4-carboxylic acid methyl ester (6.0 g, 21 mmol) in H2O-MeOH-THF (1:1:2) is added lithium hydroxide (620 mg, 26 mmol). After stiffing at room temperature for 18 h, the reaction mixture is concentrated in vacuo and purified by flash chromatography on silica gel (eluted with 15 to 100% EtOAc/hexanes) to afford 1-(4-chloro-phenyl)-5-methoxymethyl-1H-pyrazole-4-carboxylic acid as a white solid (3.8 g, 66%).

reactant | 1-(4-chloro-phenyl)-5-methoxymethyl-1H-pyrazole-4-carboxylic acid methyl ester | 21 mmol, 6.0 g | COC(=O)C=1C=NN(C1COC)C1=CC=C(C=C1)Cl | C13H13ClN2O3
reactant | lithium hydroxide | 26 mmol, 620 mg | [OH-].[Li+]
solvent | H2O MeOH THF | O.CO.C1CCOC1
product | 1-(4-chloro-phenyl)-5-methoxymethyl-1H-pyrazole-4-carboxylic acid | 3.8 g, 66% | ClC1=CC=C(C=C1)N1N=CC(=C1COC)C(=O)O | C12H11ClN2O3
